US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-fluoroaniline were reacted to yield N2,N4-bis(4-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.79 (d, 2H, J=5.4 Hz), 7.40 (m, 2H), 7.30 (m, 2H), 6.90 (m, 4H); 19NMR (CDCl3): −32425 (s, 1F), −32940 (s, 1F), −45525 (s, 1F); LCMS: ret. time: 23.53 min.; purity: 100%; MS (m/e): 317 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N2,N4-bis(4-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine | FC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)F)F | C16H11F3N4
